CIRCUIT D:\Documents and Settings\sicard\Mes documents\software\microwind31\examples\adders\AddBCD.MSK
*
* IC Technology: CMOS 65nm general purpose - 8 Metal copper - strain - SiON oxide
*
VDD 1 0 DC 1.00
Vin1 5 0 DC 0 PULSE(0.00 1.00 0.95N 0.05N 0.05N 0.95N 2.00N)
*
* List of nodes
* "Y3" corresponds to n°4
* "in1" corresponds to n°5
* "Sup10" corresponds to n°6
* "i7w3" corresponds to n°7
* " xor22_fadd4_Add41_i5w1" corresponds to n°8
* "X4" corresponds to n°9
* "i0w6" corresponds to n°11
* " nand21_fadd2_Sub41_i9w4" corresponds to n°14
* "i1w1" corresponds to n°15
* " nmos3_i0w12" corresponds to n°16
* " xor22_fadd2_Sub41_i9w1" corresponds to n°17
* " pmos3_i0w13" corresponds to n°19
* " nand23_fadd3_Add41_i4w2" corresponds to n°22
* " nmos1_i0w14" corresponds to n°23
* "i0w9" corresponds to n°24
* "i0w3" corresponds to n°25
* " nand22_fadd3_Add41_i4w3" corresponds to n°26
* " nmos4_i0w11" corresponds to n°28
* "i0w2" corresponds to n°29
* " nand21_fadd3_Add41_i4w4" corresponds to n°31
* " nand31_fadd1_Sub41_i7w6" corresponds to n°32
* " xor22_fadd3_Add41_i4w1" corresponds to n°33
* " nand23_fadd1_Sub41_i8w2" corresponds to n°36
* " nand22_fadd1_Sub41_i8w3" corresponds to n°37
* " nand21_fadd1_Sub41_i8w4" corresponds to n°40
* "i7w2" corresponds to n°41
* "i0w4" corresponds to n°42
* " xor22_fadd1_Sub41_i8w1" corresponds to n°43
* "i0_PAD (north)" corresponds to n°44
* " nand23_fadd4_Sub41_i11w2" corresponds to n°46
* " nand23_fadd2_Add41_i3w2" corresponds to n°48
* "i0w10" corresponds to n°49
* " nand22_fadd4_Sub41_i11w3" corresponds to n°50
* " nand22_fadd2_Add41_i3w3" corresponds to n°51
* " nand21_fadd4_Sub41_i11w4" corresponds to n°53
* " nand21_fadd2_Add41_i3w4" corresponds to n°55
* " xor22_fadd4_Sub41_i11w1" corresponds to n°56
* " not14_Sub41_i7w7" corresponds to n°57
* " xor22_fadd2_Add41_i3w1" corresponds to n°58
* "i7w1" corresponds to n°60
* "i7w4" corresponds to n°63
* " xor21_fadd4_Sub41_i0w7" corresponds to n°65
* " not11_Sub41_i7w8" corresponds to n°66
* " nand31_fadd3_Sub41_i7w5" corresponds to n°73
* " nand31_fadd1_Add41_i1w2" corresponds to n°75
* " and22_Sup101_i6w1" corresponds to n°76
* " nand23_fadd3_Sub41_i10w2" corresponds to n°77
* " nand23_fadd1_Add41_i2w2" corresponds to n°79
* " and21_Sup101_i6w2" corresponds to n°80
* " nand22_fadd3_Sub41_i10w3" corresponds to n°81
* " nand22_fadd1_Add41_i2w3" corresponds to n°82
* " nand21_fadd3_Sub41_i10w4" corresponds to n°84
* " nand21_fadd1_Add41_i2w4" corresponds to n°85
* "i1w3" corresponds to n°86
* " xor22_fadd3_Sub41_i10w1" corresponds to n°87
* " xor22_fadd1_Add41_i2w1" corresponds to n°88
* " nand23_fadd4_Add41_i5w2" corresponds to n°92
* " nand22_fadd4_Add41_i5w3" corresponds to n°95
* "N100" corresponds to n°100
* "X1" corresponds to n°102
* "X2" corresponds to n°103
* "N104" corresponds to n°104
* "N105" corresponds to n°105
* "N106" corresponds to n°106
* "N107" corresponds to n°107
* "N108" corresponds to n°108
* "N109" corresponds to n°109
* "N110" corresponds to n°110
* "N111" corresponds to n°111
* "N112" corresponds to n°112
* "N113" corresponds to n°113
* "N114" corresponds to n°114
* "N115" corresponds to n°115
* "N116" corresponds to n°116
* "N117" corresponds to n°117
* "N118" corresponds to n°118
* "N119" corresponds to n°119
* "N120" corresponds to n°120
* "N121" corresponds to n°121
* "N122" corresponds to n°122
* "N123" corresponds to n°123
* "N124" corresponds to n°124
* "N125" corresponds to n°125
* "N126" corresponds to n°126
* "N127" corresponds to n°127
* "N128" corresponds to n°128
* "N129" corresponds to n°129
* "N130" corresponds to n°130
* "N131" corresponds to n°131
* "N132" corresponds to n°132
* "N133" corresponds to n°133
* "N134" corresponds to n°134
* "N135" corresponds to n°135
* "N136" corresponds to n°136
* "N137" corresponds to n°137
* "N138" corresponds to n°138
* "N139" corresponds to n°139
* "N140" corresponds to n°140
* "N141" corresponds to n°141
* "N142" corresponds to n°142
* "N143" corresponds to n°143
* "N144" corresponds to n°144
* "N145" corresponds to n°145
* "N146" corresponds to n°146
* "i7vdd" corresponds to n°147
* "N148" corresponds to n°148
* "N149" corresponds to n°149
*
* MOS devices
MN1 104 4 7 0 N1  W= 0.21U L= 0.07U
MN2 0 5 8 0 N1  W= 0.21U L= 0.07U
MN3 105 5 104 0 N1  W= 0.21U L= 0.07U
MN4 0 14 105 0 N1  W= 0.21U L= 0.07U
MN5 103 9 5 0 N1  W= 0.21U L= 0.07U
MN6 106 32 4 0 N1  W= 0.21U L= 0.07U
MN7 0 103 10 0 N1  W= 0.21U L= 0.07U
MN8 0 1 106 0 N1  W= 0.21U L= 0.07U
MN9 0 12 11 0 N1  W= 0.21U L= 0.07U
MN10 107 32 5 0 N1  W= 0.21U L= 0.07U
MN11 0 57 107 0 N1  W= 0.21U L= 0.07U
MN12 8 15 12 0 N1  W= 0.21U L= 0.07U
MN13 108 1 14 0 N1  W= 0.21U L= 0.07U
MN14 0 8 13 0 N1  W= 0.21U L= 0.07U
MN15 0 57 108 0 N1  W= 0.21U L= 0.07U
MN16 109 22 15 0 N1  W= 0.21U L= 0.07U
MN17 0 18 17 0 N1  W= 0.21U L= 0.07U
MN18 110 26 109 0 N1  W= 0.21U L= 0.07U
MN19 0 31 110 0 N1  W= 0.21U L= 0.07U
MN20 1 57 18 0 N1  W= 0.21U L= 0.07U
MN21 111 5 22 0 N1  W= 0.21U L= 0.07U
MN22 0 1 21 0 N1  W= 0.21U L= 0.07U
MN23 0 102 111 0 N1  W= 0.21U L= 0.07U
MN24 0 27 24 0 N1  W= 0.21U L= 0.07U
MN25 112 5 26 0 N1  W= 0.21U L= 0.07U
MN26 0 9 112 0 N1  W= 0.21U L= 0.07U
MN27 17 32 27 0 N1  W= 0.21U L= 0.07U
MN28 113 102 31 0 N1  W= 0.21U L= 0.07U
MN29 0 17 30 0 N1  W= 0.21U L= 0.07U
MN30 0 9 113 0 N1  W= 0.21U L= 0.07U
MN31 65 6 28 0 N1  W= 0.21U L= 0.07U
MN32 114 36 32 0 N1  W= 0.21U L= 0.07U
MN33 0 34 33 0 N1  W= 0.21U L= 0.07U
MN34 115 37 114 0 N1  W= 0.21U L= 0.07U
MN35 0 40 115 0 N1  W= 0.21U L= 0.07U
MN36 102 9 34 0 N1  W= 0.21U L= 0.07U
MN37 49 6 16 0 N1  W= 0.21U L= 0.07U
MN38 116 41 36 0 N1  W= 0.21U L= 0.07U
MN39 0 102 35 0 N1  W= 0.21U L= 0.07U
MN40 0 11 116 0 N1  W= 0.21U L= 0.07U
MN41 24 6 19 0 N1  W= 0.21U L= 0.07U
MN42 0 38 29 0 N1  W= 0.21U L= 0.07U
MN43 117 41 37 0 N1  W= 0.21U L= 0.07U
MN44 0 66 117 0 N1  W= 0.21U L= 0.07U
MN45 33 5 38 0 N1  W= 0.21U L= 0.07U
MN46 1 6 23 0 N1  W= 0.21U L= 0.07U
MN47 118 11 40 0 N1  W= 0.21U L= 0.07U
MN48 0 33 39 0 N1  W= 0.21U L= 0.07U
MN49 0 66 118 0 N1  W= 0.21U L= 0.07U
MN50 119 46 41 0 N1  W= 0.21U L= 0.07U
MN51 120 48 42 0 N1  W= 0.21U L= 0.07U
MN52 121 50 119 0 N1  W= 0.21U L= 0.07U
MN53 0 45 43 0 N1  W= 0.21U L= 0.07U
MN54 122 51 120 0 N1  W= 0.21U L= 0.07U
MN55 0 53 121 0 N1  W= 0.21U L= 0.07U
MN56 0 55 122 0 N1  W= 0.21U L= 0.07U
MN57 11 66 45 0 N1  W= 0.21U L= 0.07U
MN58 123 147 46 0 N1  W= 0.21U L= 0.07U
MN59 124 75 48 0 N1  W= 0.21U L= 0.07U
MN60 0 29 123 0 N1  W= 0.21U L= 0.07U
MN61 0 11 47 0 N1  W= 0.21U L= 0.07U
MN62 0 9 124 0 N1  W= 0.21U L= 0.07U
MN63 125 147 50 0 N1  W= 0.21U L= 0.07U
MN64 0 52 49 0 N1  W= 0.21U L= 0.07U
MN65 126 75 51 0 N1  W= 0.21U L= 0.07U
MN66 0 60 125 0 N1  W= 0.21U L= 0.07U
MN67 0 5 126 0 N1  W= 0.21U L= 0.07U
MN68 43 41 52 0 N1  W= 0.21U L= 0.07U
MN69 127 29 53 0 N1  W= 0.21U L= 0.07U
MN70 128 9 55 0 N1  W= 0.21U L= 0.07U
MN71 0 60 127 0 N1  W= 0.21U L= 0.07U
MN72 0 43 54 0 N1  W= 0.21U L= 0.07U
MN73 0 5 128 0 N1  W= 0.21U L= 0.07U
MN74 0 59 56 0 N1  W= 0.21U L= 0.07U
MN75 0 148 57 0 N1  W= 0.21U L= 0.07U
MN76 0 61 58 0 N1  W= 0.21U L= 0.07U
MN77 29 60 59 0 N1  W= 0.21U L= 0.07U
MN78 0 148 60 0 N1  W= 0.21U L= 0.07U
MN79 9 5 61 0 N1  W= 0.21U L= 0.07U
MN80 0 29 62 0 N1  W= 0.21U L= 0.07U
MN81 0 147 63 0 N1  W= 0.21U L= 0.07U
MN82 0 9 64 0 N1  W= 0.21U L= 0.07U
MN83 0 67 65 0 N1  W= 0.21U L= 0.07U
MN84 0 147 66 0 N1  W= 0.21U L= 0.07U
MN85 0 68 25 0 N1  W= 0.21U L= 0.07U
MN86 56 147 67 0 N1  W= 0.21U L= 0.07U
MN87 0 70 6 0 N1  W= 0.21U L= 0.07U
MN88 58 75 68 0 N1  W= 0.21U L= 0.07U
MN89 0 56 69 0 N1  W= 0.21U L= 0.07U
MN90 0 80 70 0 N1  W= 0.21U L= 0.07U
MN91 0 58 71 0 N1  W= 0.21U L= 0.07U
MN92 70 76 0 0 N1  W= 0.21U L= 0.07U
MN93 129 77 73 0 N1  W= 0.21U L= 0.07U
MN94 0 42 70 0 N1  W= 0.21U L= 0.07U
MN95 130 79 75 0 N1  W= 0.21U L= 0.07U
MN96 131 81 129 0 N1  W= 0.21U L= 0.07U
MN97 132 82 130 0 N1  W= 0.21U L= 0.07U
MN98 0 84 131 0 N1  W= 0.21U L= 0.07U
MN99 0 78 76 0 N1  W= 0.21U L= 0.07U
MN100 0 85 132 0 N1  W= 0.21U L= 0.07U
MN101 133 7 77 0 N1  W= 0.21U L= 0.07U
MN102 134 25 78 0 N1  W= 0.21U L= 0.07U
MN103 135 86 79 0 N1  W= 0.21U L= 0.07U
MN104 0 25 133 0 N1  W= 0.21U L= 0.07U
MN105 0 1 134 0 N1  W= 0.21U L= 0.07U
MN106 0 9 135 0 N1  W= 0.21U L= 0.07U
MN107 136 7 81 0 N1  W= 0.21U L= 0.07U
MN108 0 83 80 0 N1  W= 0.21U L= 0.07U
MN109 137 86 82 0 N1  W= 0.21U L= 0.07U
MN110 0 63 136 0 N1  W= 0.21U L= 0.07U
MN111 0 4 137 0 N1  W= 0.21U L= 0.07U
MN112 138 11 83 0 N1  W= 0.21U L= 0.07U
MN113 139 25 84 0 N1  W= 0.21U L= 0.07U
MN114 0 25 138 0 N1  W= 0.21U L= 0.07U
MN115 140 9 85 0 N1  W= 0.21U L= 0.07U
MN116 0 63 139 0 N1  W= 0.21U L= 0.07U
MN117 0 4 140 0 N1  W= 0.21U L= 0.07U
MN118 141 92 86 0 N1  W= 0.21U L= 0.07U
MN119 0 89 87 0 N1  W= 0.21U L= 0.07U
MN120 142 95 141 0 N1  W= 0.21U L= 0.07U
MN121 0 90 88 0 N1  W= 0.21U L= 0.07U
MN122 0 1 142 0 N1  W= 0.21U L= 0.07U
MN123 25 63 89 0 N1  W= 0.21U L= 0.07U
MN124 9 4 90 0 N1  W= 0.21U L= 0.07U
MN125 143 15 92 0 N1  W= 0.21U L= 0.07U
MN126 0 25 91 0 N1  W= 0.21U L= 0.07U
MN127 0 103 143 0 N1  W= 0.21U L= 0.07U
MN128 0 9 93 0 N1  W= 0.21U L= 0.07U
MN129 0 96 1 0 N1  W= 0.21U L= 0.07U
MN130 144 15 95 0 N1  W= 0.21U L= 0.07U
MN131 0 97 1 0 N1  W= 0.21U L= 0.07U
MN132 0 9 144 0 N1  W= 0.21U L= 0.07U
MN133 87 7 96 0 N1  W= 0.21U L= 0.07U
MN134 145 86 97 0 N1  W= 0.21U L= 0.07U
MN135 146 103 1 0 N1  W= 0.21U L= 0.07U
MN136 0 87 100 0 N1  W= 0.21U L= 0.07U
MN137 0 9 146 0 N1  W= 0.21U L= 0.07U
MP1 2 4 7 2 P1  W= 0.56U L= 0.07U
MP2 2 5 8 2 P1  W= 0.56U L= 0.07U
MP3 7 5 2 2 P1  W= 0.56U L= 0.07U
MP4 2 14 7 2 P1  W= 0.56U L= 0.07U
MP5 10 9 5 2 P1  W= 0.56U L= 0.07U
MP6 4 32 2 2 P1  W= 0.56U L= 0.07U
MP7 2 103 10 2 P1  W= 0.56U L= 0.07U
MP8 2 1 4 2 P1  W= 0.56U L= 0.07U
MP9 2 12 11 2 P1  W= 0.56U L= 0.07U
MP10 5 32 2 2 P1  W= 0.56U L= 0.07U
MP11 2 57 5 2 P1  W= 0.56U L= 0.07U
MP12 13 15 12 2 P1  W= 0.56U L= 0.07U
MP13 14 1 2 2 P1  W= 0.56U L= 0.07U
MP14 2 8 13 2 P1  W= 0.56U L= 0.07U
MP15 2 57 14 2 P1  W= 0.56U L= 0.07U
MP16 2 22 15 2 P1  W= 0.56U L= 0.07U
MP17 11 6 16 2 P1  W= 0.56U L= 0.07U
MP18 2 18 17 2 P1  W= 0.56U L= 0.07U
MP19 15 26 2 2 P1  W= 0.56U L= 0.07U
MP20 2 31 15 2 P1  W= 0.56U L= 0.07U
MP21 21 57 18 2 P1  W= 0.56U L= 0.07U
MP22 1 6 19 2 P1  W= 0.56U L= 0.07U
MP23 22 5 2 2 P1  W= 0.56U L= 0.07U
MP24 2 1 21 2 P1  W= 0.56U L= 0.07U
MP25 2 102 22 2 P1  W= 0.56U L= 0.07U
MP26 25 6 23 2 P1  W= 0.56U L= 0.07U
MP27 2 27 24 2 P1  W= 0.56U L= 0.07U
MP28 26 5 2 2 P1  W= 0.56U L= 0.07U
MP29 2 9 26 2 P1  W= 0.56U L= 0.07U
MP30 30 32 27 2 P1  W= 0.56U L= 0.07U
MP31 29 6 28 2 P1  W= 0.56U L= 0.07U
MP32 31 102 2 2 P1  W= 0.56U L= 0.07U
MP33 2 17 30 2 P1  W= 0.56U L= 0.07U
MP34 2 9 31 2 P1  W= 0.56U L= 0.07U
MP35 2 36 32 2 P1  W= 0.56U L= 0.07U
MP36 2 34 33 2 P1  W= 0.56U L= 0.07U
MP37 32 37 2 2 P1  W= 0.56U L= 0.07U
MP38 2 40 32 2 P1  W= 0.56U L= 0.07U
MP39 35 9 34 2 P1  W= 0.56U L= 0.07U
MP40 36 41 2 2 P1  W= 0.56U L= 0.07U
MP41 2 102 35 2 P1  W= 0.56U L= 0.07U
MP42 2 11 36 2 P1  W= 0.56U L= 0.07U
MP43 2 38 29 2 P1  W= 0.56U L= 0.07U
MP44 37 41 2 2 P1  W= 0.56U L= 0.07U
MP45 2 66 37 2 P1  W= 0.56U L= 0.07U
MP46 39 5 38 2 P1  W= 0.56U L= 0.07U
MP47 40 11 2 2 P1  W= 0.56U L= 0.07U
MP48 2 33 39 2 P1  W= 0.56U L= 0.07U
MP49 2 66 40 2 P1  W= 0.56U L= 0.07U
MP50 2 46 41 2 P1  W= 0.56U L= 0.07U
MP51 2 48 42 2 P1  W= 0.56U L= 0.07U
MP52 41 50 2 2 P1  W= 0.56U L= 0.07U
MP53 2 45 43 2 P1  W= 0.56U L= 0.07U
MP54 42 51 2 2 P1  W= 0.56U L= 0.07U
MP55 2 53 41 2 P1  W= 0.56U L= 0.07U
MP56 2 55 42 2 P1  W= 0.56U L= 0.07U
MP57 47 66 45 2 P1  W= 0.56U L= 0.07U
MP58 46 147 2 2 P1  W= 0.56U L= 0.07U
MP59 48 75 2 2 P1  W= 0.56U L= 0.07U
MP60 2 29 46 2 P1  W= 0.56U L= 0.07U
MP61 2 11 47 2 P1  W= 0.56U L= 0.07U
MP62 2 9 48 2 P1  W= 0.56U L= 0.07U
MP63 50 147 2 2 P1  W= 0.56U L= 0.07U
MP64 2 52 49 2 P1  W= 0.56U L= 0.07U
MP65 51 75 2 2 P1  W= 0.56U L= 0.07U
MP66 2 60 50 2 P1  W= 0.56U L= 0.07U
MP67 2 5 51 2 P1  W= 0.56U L= 0.07U
MP68 54 41 52 2 P1  W= 0.56U L= 0.07U
MP69 53 29 2 2 P1  W= 0.56U L= 0.07U
MP70 55 9 2 2 P1  W= 0.56U L= 0.07U
MP71 2 60 53 2 P1  W= 0.56U L= 0.07U
MP72 2 43 54 2 P1  W= 0.56U L= 0.07U
MP73 2 5 55 2 P1  W= 0.56U L= 0.07U
MP74 2 59 56 2 P1  W= 0.56U L= 0.07U
MP75 2 148 57 2 P1  W= 0.56U L= 0.07U
MP76 2 61 58 2 P1  W= 0.56U L= 0.07U
MP77 62 60 59 2 P1  W= 0.56U L= 0.07U
MP78 2 148 60 2 P1  W= 0.56U L= 0.07U
MP79 64 5 61 2 P1  W= 0.56U L= 0.07U
MP80 2 29 62 2 P1  W= 0.56U L= 0.07U
MP81 2 147 63 2 P1  W= 0.56U L= 0.07U
MP82 2 9 64 2 P1  W= 0.56U L= 0.07U
MP83 2 67 65 2 P1  W= 0.56U L= 0.07U
MP84 2 147 66 2 P1  W= 0.56U L= 0.07U
MP85 2 68 25 2 P1  W= 0.56U L= 0.07U
MP86 69 147 67 2 P1  W= 0.56U L= 0.07U
MP87 2 70 6 2 P1  W= 0.56U L= 0.07U
MP88 71 75 68 2 P1  W= 0.56U L= 0.07U
MP89 2 56 69 2 P1  W= 0.56U L= 0.07U
MP90 72 80 70 2 P1  W= 0.56U L= 0.07U
MP91 2 58 71 2 P1  W= 0.56U L= 0.07U
MP92 74 76 72 2 P1  W= 0.56U L= 0.07U
MP93 2 77 73 2 P1  W= 0.56U L= 0.07U
MP94 2 42 74 2 P1  W= 0.56U L= 0.07U
MP95 2 79 75 2 P1  W= 0.56U L= 0.07U
MP96 73 81 2 2 P1  W= 0.56U L= 0.07U
MP97 75 82 2 2 P1  W= 0.56U L= 0.07U
MP98 2 84 73 2 P1  W= 0.56U L= 0.07U
MP99 2 78 76 2 P1  W= 0.56U L= 0.07U
MP100 2 85 75 2 P1  W= 0.56U L= 0.07U
MP101 77 7 2 2 P1  W= 0.56U L= 0.07U
MP102 78 25 2 2 P1  W= 0.56U L= 0.07U
MP103 79 86 2 2 P1  W= 0.56U L= 0.07U
MP104 2 25 77 2 P1  W= 0.56U L= 0.07U
MP105 2 1 78 2 P1  W= 0.56U L= 0.07U
MP106 2 9 79 2 P1  W= 0.56U L= 0.07U
MP107 81 7 2 2 P1  W= 0.56U L= 0.07U
MP108 2 83 80 2 P1  W= 0.56U L= 0.07U
MP109 82 86 2 2 P1  W= 0.56U L= 0.07U
MP110 2 63 81 2 P1  W= 0.56U L= 0.07U
MP111 2 4 82 2 P1  W= 0.56U L= 0.07U
MP112 83 11 2 2 P1  W= 0.56U L= 0.07U
MP113 84 25 2 2 P1  W= 0.56U L= 0.07U
MP114 2 25 83 2 P1  W= 0.56U L= 0.07U
MP115 85 9 2 2 P1  W= 0.56U L= 0.07U
MP116 2 63 84 2 P1  W= 0.56U L= 0.07U
MP117 2 4 85 2 P1  W= 0.56U L= 0.07U
MP118 2 92 86 2 P1  W= 0.56U L= 0.07U
MP119 2 89 87 2 P1  W= 0.56U L= 0.07U
MP120 86 95 2 2 P1  W= 0.56U L= 0.07U
MP121 2 90 88 2 P1  W= 0.56U L= 0.07U
MP122 2 1 86 2 P1  W= 0.56U L= 0.07U
MP123 91 63 89 2 P1  W= 0.56U L= 0.07U
MP124 93 4 90 2 P1  W= 0.56U L= 0.07U
MP125 92 15 2 2 P1  W= 0.56U L= 0.07U
MP126 2 25 91 2 P1  W= 0.56U L= 0.07U
MP127 2 103 92 2 P1  W= 0.56U L= 0.07U
MP128 2 9 93 2 P1  W= 0.56U L= 0.07U
MP129 2 96 1 2 P1  W= 0.56U L= 0.07U
MP130 95 15 2 2 P1  W= 0.56U L= 0.07U
MP131 2 97 1 2 P1  W= 0.56U L= 0.07U
MP132 2 9 95 2 P1  W= 0.56U L= 0.07U
MP133 100 7 96 2 P1  W= 0.56U L= 0.07U
MP134 98 86 97 2 P1  W= 0.56U L= 0.07U
MP135 1 103 2 2 P1  W= 0.56U L= 0.07U
MP136 2 87 100 2 P1  W= 0.56U L= 0.07U
MP137 2 9 1 2 P1  W= 0.56U L= 0.07U
*
C2 2 0 110.008fF
C4 4 0 16.191fF
C5 5 0 28.275fF
C6 6 0 19.500fF
C7 7 0  8.714fF
C8 8 0  1.659fF
C9 9 0 49.374fF
C10 10 0  0.416fF
C11 11 0 12.690fF
C12 12 0  0.672fF
C13 13 0  0.416fF
C14 14 0  1.406fF
C15 15 0  7.223fF
C16 16 0  1.756fF
C17 17 0  1.691fF
C18 18 0  0.672fF
C19 19 0  1.685fF
C20 1 0 10.457fF
C21 21 0  0.416fF
C22 22 0  1.310fF
C23 23 0  1.659fF
C24 24 0  8.498fF
C25 25 0  9.479fF
C26 26 0  1.345fF
C27 27 0  0.672fF
C28 28 0  1.348fF
C29 29 0  8.831fF
C30 30 0  0.416fF
C31 31 0  1.368fF
C32 32 0  2.842fF
C33 33 0  1.626fF
C34 34 0  0.672fF
C35 35 0  0.416fF
C36 36 0  1.283fF
C37 37 0  1.410fF
C38 38 0  0.672fF
C39 39 0  0.416fF
C40 40 0  1.433fF
C41 41 0  9.396fF
C42 42 0  5.871fF
C43 43 0  1.691fF
C44 44 0  5.275fF
C45 45 0  0.672fF
C46 46 0  1.375fF
C47 47 0  0.416fF
C48 48 0  1.277fF
C49 49 0  7.687fF
C50 50 0  1.404fF
C51 51 0  1.371fF
C52 52 0  0.672fF
C53 53 0  1.368fF
C54 54 0  0.416fF
C55 55 0  1.368fF
C56 56 0  1.626fF
C57 57 0  3.185fF
C58 58 0  1.659fF
C59 59 0  0.672fF
C60 60 0  7.470fF
C61 61 0  0.672fF
C62 62 0  0.416fF
C63 63 0  6.416fF
C64 64 0  0.416fF
C65 65 0  2.253fF
C66 66 0  2.730fF
C67 67 0  0.672fF
C68 68 0  0.672fF
C69 69 0  0.416fF
C70 70 0  0.863fF
C71 71 0  0.416fF
C72 72 0  0.131fF
C73 73 0  0.881fF
C74 74 0  0.131fF
C75 75 0  2.810fF
C76 76 0  1.174fF
C77 77 0  1.342fF
C78 78 0  0.709fF
C79 79 0  1.310fF
C80 80 0  1.326fF
C81 81 0  1.371fF
C82 82 0  1.339fF
C83 83 0  0.709fF
C84 84 0  1.374fF
C85 85 0  1.374fF
C86 86 0  5.820fF
C87 87 0  1.626fF
C88 88 0  1.275fF
C89 89 0  0.672fF
C90 90 0  0.672fF
C91 91 0  0.416fF
C92 92 0  1.310fF
C93 93 0  0.416fF
C94 1 0  2.719fF
C95 95 0  1.339fF
C96 96 0  0.672fF
C97 97 0  0.672fF
C98 98 0  0.103fF
C99 99 0  0.241fF
C100 100 0  0.416fF
C101 1 0  1.368fF
C102 102 0 11.768fF
C103 103 0 12.858fF
C104 104 0  0.070fF
C105 105 0  0.070fF
C106 106 0  0.070fF
C107 107 0  0.070fF
C108 108 0  0.070fF
C109 109 0  0.070fF
C110 110 0  0.070fF
C111 111 0  0.070fF
C112 112 0  0.070fF
C113 113 0  0.070fF
C114 114 0  0.070fF
C115 115 0  0.070fF
C116 116 0  0.070fF
C117 117 0  0.070fF
C118 118 0  0.070fF
C119 119 0  0.070fF
C120 120 0  0.070fF
C121 121 0  0.070fF
C122 122 0  0.070fF
C123 123 0  0.070fF
C124 124 0  0.070fF
C125 125 0  0.070fF
C126 126 0  0.070fF
C127 127 0  0.070fF
C128 128 0  0.070fF
C129 129 0  0.070fF
C130 130 0  0.070fF
C131 131 0  0.070fF
C132 132 0  0.070fF
C133 133 0  0.070fF
C134 134 0  0.070fF
C135 135 0  0.070fF
C136 136 0  0.070fF
C137 137 0  0.070fF
C138 138 0  0.070fF
C139 139 0  0.070fF
C140 140 0  0.070fF
C141 141 0  0.070fF
C142 142 0  0.070fF
C143 143 0  0.070fF
C144 144 0  0.070fF
C145 145 0  0.341fF
C146 146 0  0.070fF
C147 147 0  7.349fF
C148 148 0  0.759fF
C149 149 0  0.003fF
*
*
* n-MOS BSIM4 :
* low leakage
.MODEL N1 NMOS LEVEL=14 VTHO=0.35 U0=0.055 TOXE= 1.1E-9 LINT=0.010U 
+K1 =0.450 K2=0.100 DVT0=2.000
+DVT1=0.750 LPE0=0.200e-9 ETA0=0.080
+NFACTOR=  1.0 U0=0.055 UA=7.000e-15
+WINT=0.005U LPE0=0.200e-9 
+KT1=-0.050 UTE=-1.800 VOFF=0.010
+XJ=0.150U NDEP=170.000e15 PCLM=1.100
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p
*
* p-MOS BSIM4:
* low leakage
.MODEL P1 PMOS LEVEL=14 VTHO=-0.32 U0=0.027 TOXE= 1.1E-9 LINT=0.010U 
+K1 =0.500 K2=0.100 DVT0=2.000
+DVT1=0.650 LPE0=0.200e-9 ETA0=0.080
+NFACTOR=  1.1 U0=0.027 UA=4.800e-15
+WINT=0.005U LPE0=0.200e-9 
+KT1=-0.060 UTE=-1.800 VOFF=0.010
+XJ=0.150U NDEP=170.000e15 PCLM=0.700
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p
*
* Transient analysis
*
* (Winspice)
.options temp=27.0
.control
tran 0.1N 500.00N
print  V(9) V(4) V(9) V(5) V(5) V(102) V(9) V(103) V(9) V(9) V(103) V(6) V(147) V(147) V(6) > out.txt
plot  V(9) V(4) V(9) V(5) V(5) V(102) V(9) V(103) V(9) V(9) V(103) V(6) V(147) V(147) V(6)
.endc
.END
